US09371282B2
Hydroxylamine hydrochloride (7.5 g, 107.93 mmol) is added to a solution of hydroxy coumarin (5 g, 30.84 mmol) in MeOH (50 mL) at rt. Sodium acetate (8.8 g, 107.93 mmol) is added portionwise in 1.5 h. The reaction is stirred for 1.5 h at rt and then is heated at reflux overnight. Volatiles are evaporated, water is added and the mixture is cooled with ice-water bath. The aqueous layer is acidified to pH=3 with 4N HCl. A precipitate is filtered out and washed several times with water. The precipitate is dried under reduce pressure at 50° C. to give benzo[d]isoxazol-3-yl-acetic acid (4.3 g, 78%)

reactant | Hydroxylamine hydrochloride | 107.93 mmol, 7.5 g | Cl.NO
reactant | hydroxy coumarin | 30.84 mmol, 5 g | OC=1C(OC2=CC=CC=C2C1)=O | C9H6O3
reactant | Sodium acetate | 107.93 mmol, 8.8 g | C(C)(=O)[O-].[Na+]
solvent | MeOH | 50 mL | CO | CH4O
product | benzo[d]isoxazol-3-yl-acetic acid | 4.3 g, 78% | O1N=C(C2=C1C=CC=C2)CC(=O)O | C9H7NO3
